US03971789
1-[2-(7-Bromo-4-quinolylamino)-benzoyl]-4-diethylamino piperidine
2-(7-Bromo-4-quinolylamino)benzoic acid is converted to the acid chloride which is reacted with 4-diethylamino piperidine as in Example 1 to give the title compound.

reactant | 2-(7-Bromo-4-quinolylamino)benzoic acid | BrC1=CC=C2C(=CC=NC2=C1)NC1=C(C(=O)O)C=CC=C1 | C16H11BrN2O2
reactant | 4-diethylamino piperidine | C(C)N(C1CCNCC1)CC | C9H20N2
product | 1-[2-(7-Bromo-4-quinolylamino)-benzoyl]-4-diethylamino piperidine | BrC1=CC=C2C(=CC=NC2=C1)NC1=C(C(=O)N2CCC(CC2)N(CC)CC)C=CC=C1 | C25H29BrN4O
